US06790860B2
38.97 g (121.4 mmol) (2S,4R)-4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid were dissolved in 97 ml MeOH and 64.5 ml 1.75 M (112.8 mmol) HCl in MeOH were added and the solution heated to reflux for 3 h and concentrated. Trituration with hexane yielded 41.4 g (quant.) (2S,4R)-4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester as brown solid, MS: 335 (MH+).

reactant | (2S,4R)-4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid | 121.4 mmol, 38.97 g | O[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)O | C15H15NO5S
reactant | HCl | 112.8 mmol, 1.75 M, 64.5 ml | Cl | ClH
reactant | MeOH | 97 ml | CO | CH4O
product | (2S,4R)-4-hydroxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | 41.4 g | COC(=O)[C@H]1N(C[C@@H](C1)O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C16H17NO5S
